US08461179B1
A solution of 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2,4-difluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (3 g, 6.8 mmol) in DCM (100 mL) was treated with TFA (20 mL) and stirred at RT for 6 h. The mixture was extracted with water and the combined aqueous layers were neutralized with NH3H2O. The precipitate was collected by filtration and dried to give 3-(5-amino-2,4-difluorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (661 mg, 30% yield). 1H NMR (300 MHz, DMSO-d6): δ 8.39 (s, 1H), 7.78 (s, 1H), 7.08-6.93 (m, 2H), 6.80 (dd, J=10.2, 8.1 Hz, 1H), 6.16 (s, 1H), 5.00 (s, 2H), 3.50 (s, 3H), 2.84 (d, J=4.8 Hz, 3H); MS (ESI) m/z: 317.0 [M+H]+.

reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2,4-difluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 6.8 mmol, 3 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)F)C)C=C1 | C24H22F2N4O2
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-amino-2,4-difluorophenyl)-1-methyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 661 mg, 30% yield | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)F)F | C16H14F2N4O
